US09303033B2
4-Chloro-2-(methylthio)pyrazolo[1,5-a][1,3,5]triazine (1.0 eq, 6.26 g, 31.19 mmol) was suspended in anhydrous NMP (50 ml). Cyclopropylamine (1.5 eq, 3.2 ml, 46.26 mmol) was added through syringe dropwise. Internal temperature rose to 47° C. The mixture was stirred without any external cooling for one hour. An additional amount of cypropylamine (1 ml) was added and the mixture stirred for another 1.5 hours. The mixture was slowly poured into water (500 ml) under stirring. The resulting solid was filtered, washed with water and dried in a vacuum oven to give N-cyclopropyl-2-(methylthio)pyrazolo[1,5-a][1,3,5]triazin-4-amine as a tan solid (5.44 g, 79% yield). LCMS (ES): >95% pure, m/z 222 [M+H]+.

reactant | 4-Chloro-2-(methylthio)pyrazolo[1,5-a][1,3,5]triazine | 31.19 mmol, 6.26 g, 1.0 eq | ClC1=NC(=NC=2N1N=CC2)SC | C6H5ClN4S
reactant | Cyclopropylamine | 46.26 mmol, 3.2 ml, 1.5 eq | C1(CC1)N | C3H7N
reactant | water | 500 ml | O | H2O
solvent | NMP | 50 ml | CN1CCCC1=O | C5H9NO
product | N-cyclopropyl-2-(methylthio)pyrazolo[1,5-a][1,3,5]triazin-4-amine | 5.44 g, 79% yield | C1(CC1)NC1=NC(=NC=2N1N=CC2)SC | C9H11N5S
